US06110933
To methanol (10 ml), cooled in an ice-brine bath, was added thionyl chloride (0.87 ml) dropwise. After stirring at 0° C. for 10 minutes, 2-hydroxypentadecanoic acid (1.54 g) was added. The mixture was stirred at room temperature for 3 hours, and concentrated under vacuum. The residue was dissolved in ethyl acetate (60 ml), and washed with water (40 ml×2), saturated aqueous sodium bicarbonate (30 ml), and brine (30 ml). The organic phase was dried, concentrated to dryness, and triturated in diisopropyl ether to give methyl 2-hydroxypentadecanoate (0.77 g).

reactant | thionyl chloride | 0.87 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxypentadecanoic acid | 1.54 g | OC(C(=O)O)CCCCCCCCCCCCC | C15H30O3
reactant | methanol | 10 ml | CO | CH4O
product | methyl 2-hydroxypentadecanoate | 0.77 g | OC(C(=O)OC)CCCCCCCCCCCCC | C16H32O3
